Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH HIV (CD4 646, VL <75 from ___ who p/w 9 days 
of influenza-like illness.  
 His initial symptoms this past week began as his feeling "run 
down." This got progressively worse. He also endorses fatigue, 
increased somnolence, SOB with minimal exertion, myalgias, 
occasional headaches (not currently), rib pain. He states that 
he has had no appetite, not taking any PO, has had one episode 
of non-bloody vomiting daily, last episode yesterday. In the 
setting of his decreased PO intake, he has had ~10 pound weight 
loss (weight currently 106 pounds). He does report chills. He 
has not had any constipation and diarrhea.  
 Patient states that his symptoms improved somewhat on ___, 
but then got worse on ___. He also endorses occasional 
palpitations. He has been taking his home aspirin which he says 
he feels has helped his symptoms somewhat. He reports that he is 
compliant with his HIV medications. He also reports that because 
of his malaise, he has been taking aspirin 325 mg q4h for the 
past 9 days without significant improvement of his symptoms. He 
denies any other OTC medication or NSAID use. He does not take 
any ACEi.  
 
 In the ED, initial vitals: 98.1 98 114/80 18 100%RA. Exam 
notable for: CTAB, lower ribs TTP, abd mildly tender in RUQ. 
Initial labs notable for BUN 49/Cr 9 (baseline Cr 1.5), Na 129, 
K 2.7, Bicarb 8. Lactate 1.1. WBC 5.8, Hb 12.3, Hct 34.7. Coags 
wnl. CXR was unremarkable and renal US showed no evidence of 
obstruction/hydronephrosis. The patient received 2L IV NS, 40 
mEq KCl, and Tylenol 1 gm IV. Vitals prior to transfer were 97.4 
81 118/83 16 100% RA.  
 On arrival to the floor, initial VS 97.7, 135/68, 87, 18, 100% 
on RA.  
 
Past Medical History:
HIV ___: CD4 646, VL <75)  
 Vertigo  
 CKD stage 2  
 HLD  
 onychomycosis  
 hypogonad  
 BPH  
 Panic  
 MDD  
 ?eczema  
 Smoker  
 
Social History:
___
Family History:
 Parents in good health. Paternal grandmother with lung cancer.
 
Physical Exam:
#ERROR!
ADMISSION EXAM
#ERROR!
Vitals: 97.7, 135/68, 87, 18, 100% on RA  
 General: Alert, oriented, cachectic male lying in bed in NAD  
 HEENT: Sclerae anicteric, MMdry, oropharynx clear  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: CTAB no wheezes, rales, rhonchi  
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 GU: no foley  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits, no asterixis  

#ERROR!
DISCHARGE EXAM
#ERROR!

Vitals:  98.6 98.5 117/83(100-110) 101(90-100) 18 99RA 
___
 General: Alert, oriented, cachectic male lying in bed in NAD  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: CTAB no wheezes, rales, rhonchi  
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 GU: foley in place  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits, no asterixis 
 
Pertinent Results:
#ERROR!
ADMISSION LABS
#ERROR!
___ 04:30PM BLOOD WBC-5.8 RBC-3.54* Hgb-12.3* Hct-34.7* 
MCV-98 MCH-34.7* MCHC-35.4 RDW-13.4 RDWSD-49.1* Plt ___
___ 04:30PM BLOOD Glucose-98 UreaN-49* Creat-9.0*# Na-129* 
K-2.7* Cl-101 HCO3-8* AnGap-23*
___ 04:30PM BLOOD ALT-16 AST-20 AlkPhos-304* TotBili-0.1
___ 04:30PM BLOOD Albumin-3.8 Calcium-8.0* Phos-3.2 Mg-2.5
___ 04:30PM BLOOD ASA-9.8
___ 10:12PM BLOOD Type-ART pO2-153* pCO2-18* pH-7.15* 
calTCO2-7* Base XS--20
___ 04:53PM BLOOD Lactate-1.1

#ERROR!
MICROBIOLOGY
#ERROR!
 MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

#ERROR!
IMAGING
#ERROR!
CXR ___: IMPRESSION:  
 Hyperinflation without acute cardiopulmonary process.  
 
 Renal ultrasound: ___: Unremarkable renal ultrasound without 
hydronephrosis.  
 
#ERROR!
DISCHARGE LABS
#ERROR!

___ 06:14AM BLOOD WBC-7.7 RBC-2.36* Hgb-8.1* Hct-22.8* 
MCV-97 MCH-34.3* MCHC-35.5 RDW-13.4 RDWSD-46.5* Plt ___
___ 12:51AM BLOOD Neuts-64.4 Lymphs-13.4* Monos-17.7* 
Eos-2.8 Baso-1.4* Im ___ AbsNeut-4.20 AbsLymp-0.87* 
AbsMono-1.15* AbsEos-0.18 AbsBaso-0.09*
___ 04:43AM BLOOD ___ PTT-34.4 ___
___ 12:50PM BLOOD Glucose-127* UreaN-34* Creat-7.4* Na-142 
K-3.7 Cl-114* HCO3-16* AnGap-16
___ 12:50PM BLOOD Calcium-6.0* Phos-2.5* Mg-2.6
___ 06:14AM BLOOD Albumin-2.5* Calcium-6.2* Phos-3.7 Mg-2.6 
Iron-42*
___ 06:14AM BLOOD calTIBC-125* ___ Ferritn-926* 
TRF-96*
___ 08:02AM BLOOD %HbA1c-4.5* eAG-82*
___ 04:43AM BLOOD PTH-91*
___ 04:43AM BLOOD 25VitD-8*
 
Brief Hospital Course:
**Patient left against medical advice. Important hospital events 
as below**

___ with history of well-controlled HIV (CD4 646, VL <75 from 
___ on Truvada/lopinavir/ritonavir, CKD (baseline Cr 1.5), 
who p/w 9 days of fatigue, malaise, myalgias, nausea, headache, 
vomiting, and poor PO intake. In order to treat these symptoms, 
he had also been taking aspirin 325mg po q4h around the clock. 
He had continued to take his HIV medication. He was found to 
have new acute renal failure, with initial labs notable for BUN 
49/Cr 9, Na 129, K 2.7, Bicarb 8, and pH of 7.13. A renal 
ultrasound did not show hydronephrosis. His urine sediment 
showed muddy brown casts, consistent with acute tubular 
necrosis. He was also found to have both a gap and nongap 
metabolic acidosis. Ultimately, we thought that he had poor PO 
intake causing pre-renal ___, and took aspirin causing 
vasocontriction and worsening renal failure, as well as 
tenofovir which may have also contributed, ultimately resulting 
in acute tubular necrosis. In this setting, tenofovir 
accummulated, likely causing proximal renal tubular acidosis, 
with resultant bicarbonate wasting and hypophosphatemia. Of 
note, he also had severe hypokalemia, thought to be due to GI 
losses.

He was treated supportively with fluids, bicarbonate infusion, 
phosphate, high doses of potassium, and supportive care. He was 
followed by the nephrology team during his hospital stay. His Cr 
did not improve but patient had good urine output. Patient left 
against medical advice despite no significant improvement in 
renal function and with Cr of 7.4. He understood all the risks 
associated with leaving against medical advice and was found to 
have capacity to leave.

His HIV regimen was changed to eliminate tenofovir. He was 
continued on lopinavir/ritonavir, emtricitabine, and 
dolutegravir was added. He should undergo HLA B5701 testing as 
an outpatient to determine whether he is a candidate for 
abacavir, which could help simplify his regimen. 

#ERROR!
ACUTE ISSUES
#ERROR!

 # ___ on CKD/Acute Tubular Necrosis: Baseline Cr 1.5. Now 
presenting with BUN/CR 49/9. FENa 6.74%, with urine sediment 
showing muddy brown casts. This most likely developed due to a 
combination of poor PO intake (as sodium improved w/ IVF, 
suggesting some degree of pre-renal etiology), use of aspirin, 
and build-up of tenofovir due to worsened renal function. He 
presented with anion gap metabolic acidosis due to renal 
failure, as well as nongapped metabolic acidosis due to proximal 
RTA (see below). He continued to make urine. He was treated 
supportively but patient left against medical advice as above 
before renal function recovery.

#Proximal renal tubular acidosis: Pt has low bicarbonate, phos, 
glucosuria with a normal serum glucose concentration, in setting 
of tenofovir use. He most likely has a proximal RTA due to 
tenofovir toxicity in setting of worsened renal function. He was 
treated with bicarbonate and phosphate, and labs were trended 
frequently. 

#Hypokalemia: Likely due to nausea, vomiting and significant GI 
losses. He has a large K deficit, as he was aggressively 
repleted (Over 400 mEQ of potassium) prior to returning to a 
normal range potassium. 

#Anemia: Hb 9.5, down from 12.3 on admission. No evidence of 
bleeding. This may be due to dilution as well as frequent 
phlebotomy. Iron studies and hemolysis labs sent and pending on 
discharge.

#Hyponatremia. Pt presented with hyponatremia, which resolved 
with fluids, suggesting degree of volume depletion on admission.
 
#ERROR!
CHRONIC ISSUES
#ERROR!
#HIV. Well-controlled, last CD4 646, VL <75 (___). 
Tenofovir was stopped given renal failure. He was continued on 
emtricitabine, renally dosed. He was continued on 
lopinavir-ritonavir. He was started on dolutegravir. Consider 
simplification of regimen as an outpatient. He will need HLA 
B5701 testing to determine if he is a candidate for 
abacavir-containing regimens.

#ERROR!
TRANSITIONAL ISSUES
#ERROR!
- Will need labs(___) on ___ for electrolyte check, lab 
order already in the ___, patient will get labs 
done at ___ lab
- F/u with PCP ___ ___, scheduled
- HIV regimen was changed to eliminate tenofovir. He was 
continued on lopinavir/ritonavir, emtricitabine, and 
dolutegravir was added.
-test for HLA B___, if negative consider switching to 
abacavir/lamivudine based regimen.
-pt should f/u with renal team, no appt scheduled prior to 
discharge, pls schedule a follow up ___
- discharged on sodium bicarbonate supplement
- low Vitamin D(8), started on 50000u weekly
- Anemia, iron studies/hemolysis labs sent, needs follow up

# CODE STATUS: Full
# CONTACT: Patient, father ___ ___   
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Ointment 1 Appl TP QID:PRN foot pain 
2. calcium carbonate-vitamin D3 200 (500)-400 mg-unit oral BID 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Lopinavir-Ritonavir 2 TAB PO BID 
5. Ensure (food supplemt, lactose-reduced) 1  can oral TID 
W/MEALS 
6. Aspirin 325 mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Lopinavir-Ritonavir 2 TAB PO BID 
2. Lidocaine 5% Ointment 1 Appl TP QID:PRN foot pain 
3. Dolutegravir 50 mg PO BID 
RX *dolutegravir [Tivicay] 50 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
4. Ensure (food supplemt, lactose-reduced) 1  can oral TID 
W/MEALS 
5. Emtricitabine 200 mg PO Q96H 
RX *emtricitabine [Emtriva] 200 mg 1 capsule(s) by mouth Q96H 
Disp #*2 Capsule Refills:*0
6. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth weekly on M Disp #*6 Capsule Refills:*0
7. Calcium Carbonate 1500 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 3 tablet(s) by 
mouth daily Disp #*21 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Acute tubular necrosis
-Proximal renal tubular acidosis

SECONDARY DIAGNOSIS:
-HIV
-Severe protein/calorie malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ 
because of kidney failure. Our kidney specialists saw you, and 
we gave you medicines to keep your labs in a safe range. 
Ultimately, you decided to leave against medical advice before 
your kidney recovered. Given the high risk of further damage 
associated with leaving the hospital without improvement of your 
kidney function, please make sure to get your labs checked 
tomorrow as instructed and follow up with your primary care 
physician and kidney specialist. There is already an order in 
for labs through the ___ so you can show up at 
any ___ lab to get your labs done.

We changed your HIV medicines since we think one of the 
medications, tenofovir is contraindicated while having renal 
injury. You will now be taking emtricitabine, 
lopinavir-ritonavir, and dolutegravir. You should talk to your 
primary care doctor about further adjusting your regimen, as 
there may be simpler options.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___